US06878733B1
5-(5-Bromo-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-2-methyl-4-phenyl-1H-pyrrole-3-carboxylic acid (2-pyrrolidin-1-ylethyl)amide
5-Bromo-1,3-dihydroindol-2-one (44 mg, 0.21 mmol) was condensed with 5-formyl-2-methyl-4-phenyl-1H-pyrrole-3-carboxylic acid (2-pyrrolidin-3-ylethyl)amide (70 mg, prepared in the same manner as the isopropyl analog, above) to give 0.03 g (27%) of the title compound as a yellow solid.

reactant | 5-Bromo-1,3-dihydroindol-2-one | 0.21 mmol, 44 mg | BrC=1C=C2CC(NC2=CC1)=O | C8H6BrNO
reactant | 5-formyl-2-methyl-4-phenyl-1H-pyrrole-3-carboxylic acid (2-pyrrolidin-3-ylethyl)amide | N1CC(CC1)CCNC(=O)C1=C(NC(=C1C1=CC=CC=C1)C=O)C | C19H23N3O2
product | 5-(5-Bromo-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-2-methyl-4-phenyl-1H-pyrrole-3-carboxylic acid (2-pyrrolidin-1-ylethyl)amide | 0.03 g, 27% | N1(CCCC1)CCNC(=O)C1=C(NC(=C1C1=CC=CC=C1)C=C1C(NC2=CC=C(C=C12)Br)=O)C | C27H27BrN4O2
